US07342014B2
tert-Butyl (3S)-5-oxotetrahydro-3-furanylcarbamate
di-tert-Butyl dicarbonate (4.1 g) and 10% palladium on carbon (0.4 g) were added to a solution of benzyl (3S)-(−)-tetrahydro-5-oxo-3-furanylcarbamate (3.3 g) in tetrahydrofuran (20 ml), and the mixture was stirred for a day in a hydrogen atmosphere. After insoluble matter was filtered through Celite pad, the filtrate was concentrated under reduced pressure, and the residue was purified by column chromatography on silica gel (hexane:ethyl acetate=4:1) to obtain the title compound (1.5 g).

reactant | di-tert-Butyl dicarbonate | 4.1 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | benzyl (3S)-(−)-tetrahydro-5-oxo-3-furanylcarbamate | 3.3 g | O=C1C[C@@H](CO1)NC(OCC1=CC=CC=C1)=O | C12H13NO4
reactant | hydrogen | [H][H] | H2
catalyst | palladium on carbon | 0.4 g | [Pd] | Pd
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | tert-Butyl (3S)-5-oxotetrahydro-3-furanylcarbamate | 1.5 g | O=C1C[C@@H](CO1)NC(OC(C)(C)C)=O | C9H15NO4
